US07196087B2
To 186 mg (0.39 mmol) of 4-(3-benzoylamino-2-cyano-5-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester dissolved in 10 mL tetrahydrofuran was added 1.57 mM (4 eq., 1.57 mmol) borane (1M in tetrahydrofuran). The mixture was heated to reflux overnight, cooled and quenched with methanol, partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated under reduced pressure to provide 153 mg of crude 4-(2-aminomethyl-3-benzylamino-5-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 4-(3-benzoylamino-2-cyano-5-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.39 mmol, 186 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC(=C1)OC)NC(C1=CC=CC=C1)=O)C#N | C24H28N4O4
reactant | borane | 1.57 mmol, 1.57 mM, 4 eq. | B | BH3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(2-aminomethyl-3-benzylamino-5-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 153 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC(=C1)OC)NCC1=CC=CC=C1)CN | C24H34N4O3
